US04143144
To a solution of 26.54 grams (0.1 mole) of 2,6-dichloro-4-(trichloromethyl)pyridine dissolved in 150 ml of 2-ethoxyethanol was added over a 35 minute period, a solution of 2.53 grams (0.11 mole) of sodium metal dissolved in ~100 ml of 2-ethoxyethanol. The mixture was heated for 5 hours at 65°-75° C. The insoluble by-products were filtered off and the 2-ethoxyethanol was removed by evaporation under reduced pressure. The residue which remained was diluted with water and extracted with methylene chloride and the extract dried with sodium sulfate. The extract was filtered and the methylene chloride evaporated off leaving the 2-chloro-6-(2-ethoxyethoxy)-4-(trichloromethyl)pyridine product as an oil. The product had a refractive index of n 25/d = 1.5395 and was recovered in a yield of 23.8 grams (75 percent of theoretical). Upon analysis, the compound was found to have carbon, hydrogen, nitrogen and chlorine contents of 37.72, 3.25, 4.55 and 44.61 percent, respectively, as compared with the theoretical contents of 37.64, 3.48, 4.39 and 44.45 percent, respectively, as calculated for the above named compound.

reactant | 2,6-dichloro-4-(trichloromethyl)pyridine | 0.1 mole, 26.54 grams | ClC1=NC(=CC(=C1)C(Cl)(Cl)Cl)Cl | C6H2Cl5N
reactant | sodium | 0.11 mole, 2.53 grams | [Na] | Na
reactant | 2-ethoxyethanol | 150 ml | C(C)OCCO | C4H10O2
reactant | 2-ethoxyethanol | ~100 ml | C(C)OCCO | C4H10O2
product | 2-chloro-6-(2-ethoxyethoxy)-4-(trichloromethyl)pyridine | ClC1=NC(=CC(=C1)C(Cl)(Cl)Cl)OCCOCC | C10H11Cl4NO2
